US09388189B2
b) (S)—N-(3-Hydroxy-5-(4-((3-hydroxy-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)-3-hydroxypropyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.08 mmol) was treated with N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide (85 mg, 0.21 mmol), sodium carbonate (23 mg, 0.22 mmols) and 1,11-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (21 mg, 0.03 mmol) in 1,2-dimethoxyethane (1.6 ml) and water (0.40 ml) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to give 35 mg (39% yield, 65% purity) of the title compound.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)-3-hydroxypropyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.08 mmol, 50 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](CCO)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C28H34BrN7O3Si
reactant | N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide | 0.21 mmol, 85 mg | OC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C | C13H20BNO5S
reactant | sodium carbonate | 0.22 mmols, 23 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 1.6 ml | COCCOC | C4H10O2
solvent | water | 0.40 ml | O | H2O
product | (S)—N-(3-Hydroxy-5-(4-((3-hydroxy-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 39% yield | OC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](CCO)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)C | C35H42N8O6SSi
